US07608715B2
Step A: Preparation of 6-bromo-2-p-tolyl-benzo[de]isoquinoline-1,3-dione.
A mixture of 4-Bromo 1,8 naphthalic anhydride (10 g), p-toluidine (4.08 g) and acetic acid (75 ml) was refluxed with stirring for 10 hours. Water (200 ml) was added at room temperature, the separated solid was filtered, washed with acetic acid followed by water and dried at 100° C. for 8 hours to yield 11.5 g of the product.

reactant | 4-Bromo 1,8 naphthalic anhydride | 10 g | C1=CC2=C(C=CC3=C2C(=C1)C(=O)OC3=O)Br | C12H5BrO3
reactant | p-toluidine | 4.08 g | NC1=CC=C(C=C1)C | C7H9N
reactant | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
solvent | Water | 200 ml | O | H2O
product | 6-bromo-2-p-tolyl-benzo[de]isoquinoline-1,3-dione | 11.5 g | BrC=1C=CC=2C(N(C(C3=CC=CC1C23)=O)C2=CC=C(C=C2)C)=O | C19H12BrNO2
